US05418241
3.1. Ethyl 2-[(1-methylethyl)amino]-3-nitrobenzoate
4.8 g (0.12 mol) of a 60% sodium hydride solution are added, at 0° C., under argon, and in portions, to a solution of 34 g (0.11 mol) of ethyl 2-[[(1,1-dimethylethoxy)carbonyl]amino]-3-nitrobenzoate in 100 ml of dimethylformamide. The mixture is left stirring for 20 minutes at 0° C. 55.9 g (0.33 mol) of 2-iodopropane are then added and the mixture is heated at 80° C. for 4 hours and then at room temperature for 48 hours. Hydrolysis is carried out by adding water and extraction is carried out 3 times with ethyl acetate. The organic phase is collected and washed successively with water and with a saturated sodium chloride solution. It is dried and evaporated.

reactant | sodium hydride | [H-].[Na+]
reactant | ethyl 2-[[(1,1-dimethylethoxy)carbonyl]amino]-3-nitrobenzoate | 0.11 mol, 34 g | CC(C)(OC(=O)NC1=C(C(=O)OCC)C=CC=C1[N+](=O)[O-])C | C14H18N2O6
reactant | 2-iodopropane | 0.33 mol, 55.9 g | IC(C)C | C3H7I
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | Ethyl 2-[(1-methylethyl)amino]-3-nitrobenzoate | CC(C)NC1=C(C(=O)OCC)C=CC=C1[N+](=O)[O-] | C12H16N2O4
